US09388142B2
To a solution of 4-(4-carboxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (828 mg, 2.71 mmol) in DMF (5 ml) are added iodomethane (577 mg, 4.07 μl) and potassium carbonate (375 mg, 2.71 mmol) and the reaction mixture is stirred for 4 hours at room temperature. The reaction mixture is evaporated and the residue is treated with dichloromethane. The solids are filtered off and the filtrate is evaporated to dryness to afford 4-(4-methoxy-carbonyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester as yellow solid; HPLC/MS 2.21 min (A), [M-tBu] 264.

reactant | 4-(4-carboxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.71 mmol, 828 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)O | C17H23NO4
reactant | iodomethane | 4.07 μl, 577 mg | IC | CH3I
reactant | potassium carbonate | 2.71 mmol, 375 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-methoxy-carbonyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1C(C=C(C=C1)OC)=C=O | C18H25NO4
